US07169780B2
Step 3: Benzyl-(2S,4R)-2-[amino(hydroxyimino)methyl]-4methoxypyrrolidine-1-carboxylate
To benzyl-(2S,4R)-2-cyano-4-methoxypyrrolidine-1-carboxylate, dissolved in ethanol (0.4 M), hydroxylamine hydrochloride (1.3 eq.) and triethylamine (1.5 eq.) were added. The mixture was stirred at 40° C. for 4 hours then at room temperature overnight. The mixture was concentrated in vacuo and the residue dissolved in ethyl acetate washed with brine, dried over Na2SO4, filtered and concentrated to give title compound.

reactant | benzyl-(2S,4R)-2-cyano-4-methoxypyrrolidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OC)C#N | C14H16N2O3
reactant | hydroxylamine hydrochloride | 1.3 eq. | Cl.NO
reactant | triethylamine | 1.5 eq. | C(C)N(CC)CC | C6H15N
solvent | ethanol | 0.4 M | C(C)O | C2H6O
product | Benzyl-(2S,4R)-2-[amino(hydroxyimino)methyl]-4methoxypyrrolidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OC)C(=NO)N | C14H19N3O4
